US06017910
B. Preparation of N-(1(R),2-diphenylethyl)aminoacetaldehyde diethyl acetal
The general procedure of Suzuki, T., et al., Chem. Pharm. Bull 34:1988 (1986), was adapted for the following alkylation. To a stirred mixture at 90° C. of 249.5 mg (1.3 mmoles) of (-)-1(R),2-diphenylethylamine and 193.6 mg (1.4 mmoles) of anhydrous potassium carbonate (Baker, used as received) in 2.5 ml of N,N-dimethylformamide (Baker, used as received) was added dropwise, over two hours, a solution of 284.1 mg (1.4 mmoles) of bromoacetaldehyde diethylacetal (Aldrich, distilled, bp 83° C./40 mm). The resulting mixture was heated (95-105° C.) with stirring. After 16 hours the reaction mixture was cooled to 10° C., 50 mL of 1N NaOH was added followed by 25 mL of CH2Cl2. The layers were separated and the aqueous layer was extracted with 2×15 mL of CH2Cl2. The combined organic layers were washed with 10 mL of 1N NaOH, dried (K2CO3) and the solvent evaporated at reduced pressure to give 346.1 mg of brown oil. The oil was distilled (180-190° C., 0.05 mm/Hg) using a Kugelrohr apparatus to give 315.5 mg of light yellow oil. The yellow oil (304.2 mg) was chromatographed (10 g silica gel) using 25 mL Et2O followed by 40 mL 3:1 Et2O/THF then 40 mL 2:1 Et2O/THF as eluent. The fractions containing the less polar material Rf 0.56) were combined and the solvent removed at reduced pressure yielding 283.3 mg of N-(1(R),2-dipbenylethyl)aminoacctaldehyde diethyl acetal as a clear, light yellow liquid (71% yield).

reactant | (-)-1(R),2-diphenylethylamine | 1.3 mmoles, 249.5 mg | C1(=CC=CC=C1)[C@@H](CC1=CC=CC=C1)N | C14H15N
reactant | potassium carbonate | 1.4 mmoles, 193.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehyde diethylacetal | 1.4 mmoles, 284.1 mg | C(C)OC(CBr)OCC | C6H13BrO2
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(1(R),2-diphenylethyl)aminoacetaldehyde diethyl acetal | 346.1 mg | C(C)OC(CN[C@H](CC1=CC=CC=C1)C1=CC=CC=C1)OCC | C20H27NO2
